US06884890B2
The starting material was prepared as follows: 2-(3-Amino-2-nitro-phenylsulfanyl)ethanol. 3-Chloro-2-nitro-aniline (1.12 g, 6.5 mmol), 2-mercaptoethanol (0.60 ml, 8.6 mmol), and potassium carbonate (0.99 g, 7.1 mmol) were combined in dry DMF (15 ml) and stirred at 130° C. for 4 h. The solution was allowed to cool and was concentrated in vacuo. Purification by silica gel chromatography (70% EtOAc/hexanes) gave 1.29 g (93%) of 23-amino-2-nitro phenylsulfanyl)-ethanol as a bright red solid. 1H NMR (300 MHz, DMSO-d6) δ 7.20 (t, 1H, J=8.1 Hz), 6.80 (s, 2H), 6.73 (dd, 1H, J=8.4, 0.9 Hz), 6.63 (dd, 1H, J=7.8, 1.2 Hz), 4.92 (t, 1H, J=6.0 Hz), 3.58 (q, 2H, J=6.0 Hz), 2.98 (t, 2H, J=6.0 Hz). 2-(2,3-Diamino-phenysulfanyl)-ethanol. 2-(3-Amino-2-nitrophenylsulfanyl) ethanol (1.02 g, 4.8 mmol) was reduced by hydrogenation using 45 psi of H2 with 10% Pd-C (180 mg) in EtOAc (25 mL) for 6 h. After filtering through Celite, solvent was removed in vacuo. Purification by silica gel chromatography (EtOAc) gave 762 mg (87%) of 22,3-diamino-phenylsulfanyl)ethanol as a faintly yellow solid. 1H NMR (300 MHz, CDCl3) δ 6.98 (dd, 1H, J=7.5, 1.5 Hz), 6.606.72 (m, 2H), 3.65 (t, 2H, J=5.7 Hz), 355 (br s, 5H), 2.91 (t, 2H, J=5.7 Hz). Example 25(g); 3-(5-methylcarbamoyl-1H-benzoimidazol-2-yl)-6-(2-methoxy-4 hydroxyphenyl)-1H-indazole Example 25(g) was prepared in a similar manner to that described for Example 25(a), except 3,4-diamino-N-methyl-benzamide (Kumar, et. al. J. Med. Chem, 27, 1083-89 (1984)) was used instead of 3,4-diaminopyridine in step (iv). 1H NMR (300 MHz, DMSO-d6) δ 13.59 (s, 0.5H), 13.55 (s, 0.5H), 13.21 (s, 0.5H), 13.14 (s, 0.5H), 9.60 (s, 1H), 8.38-9.46 (m, 2H), 8.26 (s, 0.5H), 8.03 (s, 0.5H), 7.71-7.79 (m, 1.5H), 7.63 (s, 1H), 7.52 (d, 0.5H, J=8.4 Hz), 7.35-7.40 (m, 1H), 7.21 (d, 1H, J=2.1 Hz), 6.55 (d, 1H, J=2.4 Hz), 6.49 (dd, 1H, J=8.4, 2.4 Hz), 3.75 (s, 3H), 2.82 (d, 1.5H, J=1.5 Hz). 2.81 (d, 1.5H, J=1.5 Hz). MS (ES) [m+H]/z calc'd 414, found 414, [m−H]/z calc'd 412, found 412.

reactant | 2-(3-Amino-2-nitro-phenylsulfanyl)ethanol | NC=1C(=C(C=CC1)SCCO)[N+](=O)[O-] | C8H10N2O3S
reactant | 3-Chloro-2-nitro-aniline | 6.5 mmol, 1.12 g | ClC=1C(=C(N)C=CC1)[N+](=O)[O-] | C6H5ClN2O2
reactant | 2-mercaptoethanol | 8.6 mmol, 0.60 ml | SCCO | C2H6OS
reactant | potassium carbonate | 7.1 mmol, 0.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2,3-Diamino-phenysulfanyl)-ethanol | NC1=C(C=CC=C1N)SCCO | C8H12N2OS
reactant | 2-(3-Amino-2-nitrophenylsulfanyl) ethanol | 4.8 mmol, 1.02 g | NC=1C(=C(C=CC1)SCCO)[N+](=O)[O-] | C8H10N2O3S
reactant | 3,4-diamino-N-methyl-benzamide | NC=1C=C(C(=O)NC)C=CC1N | C8H11N3O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | Pd-C | 180 mg | [Pd] | Pd
product | 3-(5-methylcarbamoyl-1H-benzoimidazol-2-yl)-6-(2-methoxy-4 hydroxyphenyl)-1H-indazole | CNC(=O)C1=CC2=C(NC(=N2)C2=NNC3=CC(=CC=C23)C2=C(C=C(C=C2)O)OC)C=C1 | C23H19N5O3
